US05654316
1-[3-(3,4-dichlorophenyl)-1,5-dioxopentyl]-1H-indole
A mixture of 1-[3-(3,4-dichlorophenyl)-5-hydroxy-1-oxopentyl]-1H-indole (4.25 g) and molecular sieves (4A, 2.75 g) in CH2Cl2 (40 mL) and was treated with TPAP (50 mg) and 4-methylmorpholine-N-oxide (2.75 mg) and stirred at room temperture for 2 hours. The reaction mixture was filtered through a pad of silica gel rinsed with EtOAc (100 mL) and concentrated under reduced pressure to yield an oil. Silica gel chromatography eluting with 50-75% EtOAc/Hexanes gave the desired title compound (930 mg).

reactant | 1-[3-(3,4-dichlorophenyl)-5-hydroxy-1-oxopentyl]-1H-indole | 4.25 g | ClC=1C=C(C=CC1Cl)C(CC(=O)N1C=CC2=CC=CC=C12)CCO | C19H17Cl2NO2
reactant | 4-methylmorpholine-N-oxide | 2.75 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
catalyst | TPAP | 50 mg | CCC[N+](CCC)(CCC)CCC.[O-][Ru](=O)(=O)=O
product | 1-[3-(3,4-dichlorophenyl)-1,5-dioxopentyl]-1H-indole | 930 mg | ClC=1C=C(C=CC1Cl)C(CC(=O)N1C=CC2=CC=CC=C12)CC=O | C19H15Cl2NO2
